US04576749
(B) (3S)-N-[[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]carbonyl]-N-[4-(phenylmethoxy)phenyl]glycine, phenylmethyl ester
Benzyl-N-(4-benzyloxyphenyl)glycinate (694 mg, 2.0 mmole) was dissolved in 6 ml of dry toluene and cooled to 0° C. A phosgene solution (2.9 ml, 12.5% in toluene) was added to the reaction mixture followed by the dropwise solution of pyridine (0.348 ml, 4.3 mmol) with rapid stirring. The reaction was stirred for 1.5 hours at 0° C. and then allowed to warm to room temperature. The precipitate of pyridinium hydrochloride was filtered under argon, and the volatiles were removed from the filtrate. This was dissolved in 4 ml of dry tetrahydrofuran and cooled to 0° C. To this solution was added (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone (440 mg, 2.0 mmole) and 36 mg (0.3 mmole) of dimethylaminopyridine. Triethylamine (0.307 ml, 2.2 mmol) was then added dropwise, and the reaction mixture was allowed to warm to room temperature and stir overnight. The product was extracted with ethyl acetate from dilute aqueous hydrochloric acid. The combined organic extracts were dried with sodium sulfate and the volatiles removed. The residue was purified by flash chromatography on silica (LPS-1) (eluting with 1:1 ethyl acetate/hexane) to yield 465 mg of the title compound.

reactant | Benzyl-N-(4-benzyloxyphenyl)glycinate | 2.0 mmole, 694 mg | C(C1=CC=CC=C1)OC(CNC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H21NO3
reactant | phosgene | 2.9 ml | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | 4.3 mmol, 0.348 ml | N1=CC=CC=C1 | C5H5N
reactant | (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone | 2.0 mmole, 440 mg | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | dimethylaminopyridine | 0.3 mmole, 36 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | Triethylamine | 2.2 mmol, 0.307 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | (3S)-N-[[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]carbonyl]-N-[4-(phenylmethoxy)phenyl]glycine, phenylmethyl ester | 465 mg | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(N(C1)C(=O)N(CC(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C34H31N3O7
